US04552703
Into a mixed solution of 8 g of fuming nitric acid and 24 g of acetic anhydride, kept at a temperature of -5° to 10° C., was added dropwise 6 g of (S)-4-hydroxy-3-methyl-2-(2-propenyl)-2-cyclopenten-1-one ([α]D23 : +10.3° (C=1.17, in chloroform), (R)-isomer/(S)-isomer=15.7/84.3). Thereafter, with the same operations as in Example 1, 7.56 g of crude (S)-3-methyl-4-nitroxy-2-(2-propenyl)-2-cyclopenten-1-one was obtained.

reactant | nitric acid | 8 g | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 24 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | (S)-4-hydroxy-3-methyl-2-(2-propenyl)-2-cyclopenten-1-one | 6 g | O[C@@H]1C(=C(C(C1)=O)CC=C)C | C9H12O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (S)-3-methyl-4-nitroxy-2-(2-propenyl)-2-cyclopenten-1-one | 7.56 g | CC1=C(C(C[C@@H]1O[N+](=O)[O-])=O)CC=C | C9H11NO4
